US04105776
1-(3-Acetylthiopropanoyl)-L-Proline
1-(3-Acetylthiopropanyl)-L-proline-t-butyl ester (4.7 g.) is dissolved in a mixture of anisole (34 ml.) and trifluoroacetic acid (68 ml.) and the mixture is kept at room temperature for 1 hour. The solvents are removed in vacuo and the residue is precipitated from ether-hexane several times. The residue (3.5 g.) is dissolved in acetonitrile (25 ml.) and dicyclohexylamine (2.8 ml.) is added. The crystalline salt is filtered and recrystallized from isopropanol. Yield 3.8 g. m.p. 176°-177°. The salt is reconverted to 1-(3-acetylthiopropanoyl)-L-proline as in Example 1, yield 1.25 g., m.p. 89°-90° (ethyl acetate-hexane).

reactant | 1-(3-Acetylthiopropanyl)-L-proline-t-butyl ester | 4.7 g | C(C)(C)(C)OC([C@H]1N(CCC1)CCCSC(C)=O)=O | C14H25NO3S
reactant | anisole | 34 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 68 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(3-Acetylthiopropanoyl)-L-Proline | C(C)(=O)SCCC(=O)N1[C@H](C(=O)O)CCC1 | C10H15NO4S
